US06353017B1
To a solution of t-butyl (S)-5-(3-methoxycarbonyl-1H-pyrazol-1-yl)-2-(t-butoxycarbonylamino)-pentanoate (0.84 g, 0.21 mmol) in CH2Cl2 (20 mL) at 0° C. is bubbled HCl gas for 30 minutes. Afterward, the solution is warmed to room temperature over 30 minutes. Evaporation of solvent yields (S)-5-(-3-methoxycarbonyl-1H-pyrazol-1-yl)-2-aminopentanoic acid.HCl as a gray-white solid.

reactant | t-butyl (S)-5-(3-methoxycarbonyl-1H-pyrazol-1-yl)-2-(t-butoxycarbonylamino)-pentanoate | 0.21 mmol, 0.84 g | COC(=O)C1=NN(C=C1)CCC[C@@H](C(=O)OC(C)(C)C)NC(=O)OC(C)(C)C | C19H31N3O6
reactant | HCl | Cl | ClH
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | (S)-5-(-3-methoxycarbonyl-1H-pyrazol-1-yl)-2-aminopentanoic acid | COC(=O)C1=NN(C=C1)CCC[C@@H](C(=O)O)N | C10H15N3O4
